US09029370B2
a) Methyl 2-cyano-6-methoxyisonicotinate
Under N2, methyl 2-chloro-6-methoxyisonicotinate (CAS 42521-10-8) (3.97 g, 19.7 mmol, Eq: 1.00), zinc cyanide (2.77 g, 23.6 mmol, Eq: 1.2) and Tetrakis-triphenylphosphin-palladium (1.14 g, 985 μmol, Eq: 0.05) were mixed in DMF (67.5 ml). The RM was stirred under microwave at 160° C. for 30 minutes. Control with LC-MS: the reaction was finished.

reactant | methyl 2-chloro-6-methoxyisonicotinate | 19.7 mmol, 3.97 g | ClC=1C=C(C(=O)OC)C=C(N1)OC | C8H8ClNO3
reactant | DMF | 67.5 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 23.6 mmol, 2.77 g | [C-]#N.[Zn+2].[C-]#N
product | Methyl 2-cyano-6-methoxyisonicotinate | C(#N)C=1C=C(C(=O)OC)C=C(N1)OC | C9H8N2O3
